*PSpice Modeling Apps Index library File
*$
.SUBCKT ST_Model P1 P2 S1 S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: ST_Model
LP1 PI P2 1m
RP1 P1 PI 10m
RS1 S1 SI 10m
RG1 S2 0 1G
K1 LP1 LS1 1
LS1 SI SI1 1.0000e-7
LL1 SI1 S2 100n
.ends ST_Model
 .SUBCKT FLB_Model P1 P2 S1 S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: FLB_Model
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 S1 SI1 1.0000e-5
RS1 SI1 SI2 10m
LL1 SI2 S2 100n
K1 LP1 LS1 1
RG1 S2 0 1G
.ends FLB_Model
 .SUBCKT FWD_Model P1 P2 S1 S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: FWD_Model
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 SI2 S2 1.0000e-7
LL1 S1 SI1 100n
RS1 SI1 SI2 10m
K1 LP1 LS1 1
RG1 S2 0 1G
.ends FWD_Model

 .SUBCKT ST_Model1 P1 P2 S1 S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: ST_Model1
LP1 PI P2 1m
RP1 P1 PI 10m
RS1 S1 SI 10m
RG1 S2 0 1G
K1 LP1 LS1 1
LS1 SI SI1 1.6900e-5
LL1 SI1 S2 100n
.ends ST_Model1
 .SUBCKT CETAPP_Model P1 PC P2 S1 S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPP_Model
RP1 P1 PI1 1.0000e-2
LL1 PI1 PI2 5.0000e-8
LP1 PI2 PC 1.0000e-3
LP2 PC PI3 1.0000e-3
LL2 PI3 PI4 5.0000e-8
RP2 PI4 P2 1.0000e-2
LS1 S1 SI1 1.6900e-5
RS1 SI1 S2 10m
K1 LP1 LP2 LS1 1
RG1 S2 0 1G
.ends CETAPP_Model
 .SUBCKT CETAPS_Model P1 P2 S1 SC S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPS_Model
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 SI1 SC 1.6900e-5
LL1 SI1 SI2 5.0000e-8
RS1 SI2 S1 1.0000e-2
LS2 SC SI3 1.6900e-5
LL2 SI3 SI4 5.0000e-8
RS2 SI4 S2 1.0000e-2
K1 LP1 LS1 LS2 1
RG1 SC 0 1G
.ends CETAPS_Model
 .SUBCKT CETAPS_Model1 P1 P2 S1 SC S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPS_Model1
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 SI1 SC 3.6000e-4
LL1 SI1 SI2 5.0000e-8
RS1 SI2 S1 1.0000e-2
LS2 SC SI3 3.6000e-4
LL2 SI3 SI4 5.0000e-8
RS2 SI4 S2 1.0000e-2
K1 LP1 LS1 LS2 1
RG1 SC 0 1G
.ends CETAPS_Model1
 .SUBCKT CETAPS_Model2 P1 P2 S1 SC S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPS_Model2
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 SI1 SC 3.6000e-6
LL1 SI1 SI2 5.0000e-8
RS1 SI2 S1 1.0000e-2
LS2 SC SI3 3.6000e-6
LL2 SI3 SI4 5.0000e-8
RS2 SI4 S2 1.0000e-2
K1 LP1 LS1 LS2 1
RG1 SC 0 1G
.ends CETAPS_Model2
 .SUBCKT CETAPS_Model3 P1 P2 S1 SC S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPS_Model3
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 SI1 SC 3.6000e-6
LL1 SI1 SI2 5.0000e-8
RS1 SI2 S1 1.0000e-2
LS2 SC SI3 3.6000e-6
LL2 SI3 SI4 5.0000e-8
RS2 SI4 S2 1.0000e-2
K1 LP1 LS1 LS2 1
RG1 SC 0 1G
.ends CETAPS_Model3
 .SUBCKT CETAPS_Model5 P1 P2 S1 SC S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPS_Model5
RP1 P1 PI 10m
LP1 PI P2 1m
LS1 SI1 SC 1.0000e-5
LL1 SI1 SI2 5.0000e-8
RS1 SI2 S1 1.0000e-2
LS2 SC SI3 1.0000e-5
LL2 SI3 SI4 5.0000e-8
RS2 SI4 S2 1.0000e-2
K1 LP1 LS1 LS2 1
RG1 SC 0 1G
.ends CETAPS_Model5








 .SUBCKT CETAPP_Model2 P1 PC P2 S1 S2
* Model generated on 2017 October 2
* MODEL FORMAT: PSpice
* MODEL Type: CETAPP_Model2
RP1 P1 PI1 1.0000e-2
LL1 PI1 PI2 5.0000e-8
LP1 PI2 PC 1.0000e-3
LP2 PC PI3 1.0000e-3
LL2 PI3 PI4 5.0000e-8
RP2 PI4 P2 1.0000e-2
LS1 S1 SI1 3.6000e-6
RS1 SI1 S2 10m
K1 LP1 LP2 LS1 1
RG1 S2 0 1G
.ends CETAPP_Model2
